US06235747B1
6-{4-[2-(Adamantan-1-ylamino)-ethyl]-phenyl}-pyridin-2-ylamine
Preparedas in Example 112, using 1-aminoadamantane for the coupling with 2-(2,5-dimethylpyrrolyl)-6-(4-(carboxymethyl)phenyl)-pyridine followed by deblocking with hydroxylamine hydrochloride and borane methyl sulfide reduction in 89.5% yield, mp 200-220° C. (dec.) as the hydrochloride salt.

reactant | 1-aminoadamantane | NC12CC3CC(CC(C1)C3)C2 | C10H17N
reactant | 2-(2,5-dimethylpyrrolyl)-6-(4-(carboxymethyl)phenyl)-pyridine | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C=C1)CC(=O)O)C | C19H18N2O2
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | borane methyl sulfide | CSC.B
reactant | CDCl3 MeOD | [2H]C(Cl)(Cl)Cl.CO[2H]
product | 6-{4-[2-(Adamantan-1-ylamino)-ethyl]-phenyl}-pyridin-2-ylamine | 89.5% yield | C12(CC3CC(CC(C1)C3)C2)NCCC2=CC=C(C=C2)C2=CC=CC(=N2)N | C23H29N3
